US08604062B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-pyridin-2-ylmethyl-nicotinamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) in DMF (2 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (228 mg, 0.71 mmol), N,N-diisopropyl ethyl amine (552 μL, 3.22 mmol) and 2-(aminomethyl)pyridine (0.77 mmol). The resulting reaction mixture was stirred for 12 h at ambient temperature. After dilution with ethyl acetate (20 mL) it was washed with water (20 mL) and aqueous sodium carbonate (saturated, 40 mL). The organic layer was dried over sodium sulfate and concentrated. Purification by chromatography ((SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:95:5) afforded the title compound (191 mg, 74%) which was obtained as a white solid. MS: m/e=401.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.71 mmol, 228 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 3.22 mmol, 552 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(aminomethyl)pyridine | 0.77 mmol | NCC1=NC=CC=C1 | C6H8N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-pyridin-2-ylmethyl-nicotinamide | 191 mg, 74% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NCC2=NC=CC=C2)C=C1 | C23H20N4O3
